US05977125
5,8-Dimethyl-2-carbomethoxy-5,6,7,8-tetrahydroquinoline
5,8-Dimethyl-2-(2-furyl)-5,6,7,8-tetrahydroquinoline (3 g) was dissolved in 100 ml of methanol. Ozone generated from oxygen at -78° C. was introduced into the obtained solution for 10 minutes. The resulting system was saturated with nitrogen gas, followed by the addition of 7 ml of dimethyl sulfide. The temperature of the mixture was raised to room temperature and the resulting reaction mixture was concentrated to give about 3 g of a crude product. This crude product containing a carboxylic acid was dissolved in 10 ml of DMF, followed by the addition of 1 ml of methyl iodide and 3.6 g of K2CO3. The obtained mixture was stirred at room temperature for one hour, followed by the addition of 30 ml of water. The obtained mixture was extracted with ethyl acetate (50 ml×2) and the organic phase was washed with a saturated aqueous solution of common salt, dried over MgSO4 and concentrated. The obtained mixture was purified by column chromatography to give 1.6 g of the objective compound.

reactant | 5,8-Dimethyl-2-(2-furyl)-5,6,7,8-tetrahydroquinoline | 3 g | CC1C=2C=CC(=NC2C(CC1)C)C=1OC=CC1 | C15H17NO
reactant | Ozone | O=[O+][O-] | O3
reactant | oxygen | O=O | O2
reactant | dimethyl sulfide | 7 ml | CSC | C2H6S
reactant | methyl iodide | 1 ml | CI | CH3I
reactant | K2CO3 | 3.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 100 ml | CO | CH4O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 5,8-Dimethyl-2-carbomethoxy-5,6,7,8-tetrahydroquinoline | 1.6 g | CC1C=2C=CC(=NC2C(CC1)C)C(=O)OC | C13H17NO2
